US08669234B2
2-[5-Ethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.002 g, 2.56 mmol) was dissolved in dioxane (5 mL) and 4 M HCl in dioxane (5 mL) was added. The reaction mixture was stirred for 3 hours and concentrated. To the residue was added 2-Methoxycarbonylamino-3-methyl-butyric acid (561 mg, 3.20 mmol), HATU (1.22 g, 3.20 mmol) and DMF (15 mL). The stirred reaction mixture was cooled to 0° C. and DIPEA (2.23 mL, 12.8 mmol) was added). After stirring for 3 h, the reaction mixture was diluted with ethyl acetate and washed with a saturated aqueous solution of sodium bicarbonate and brine. The combined organic layers were dried over magnesium sulfate and concentrated. The crude residue was purified by silica column chromatography (40% to 75% EtOAc/hexanes) to provide the coupled compound (741 mg, 65% over 2 steps). This material was dissolved in dichloromethane (10 mL) and trifluoroacetic acid (5 mL) was added. The stirred reaction mixture was heated to reflux for 4 h, then cooled to RT, and poured into a saturated aqueous solution of sodium bicarbonate. The aqueous phase was extracted 3 times with dichloromethane. The combined organic layers were dried over magnesium sulfate and concentrated. The crude residue was purified by silica column chromatography (0% to 10% MeOH/DMC) to provide {1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (525 mg, 100%).

reactant | 2-[5-Ethynyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.56 mmol, 1.002 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1N(C(=CN1)C#C)COCC[Si](C)(C)C | C20H33N3O3Si
reactant | HCl | 4 M | Cl | ClH
reactant | 2-Methoxycarbonylamino-3-methyl-butyric acid | 3.20 mmol, 561 mg | COC(=O)NC(C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 3.20 mmol, 1.22 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 12.8 mmol, 2.23 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | {1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 525 mg, 100% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#C)=O | C16H22N4O3
